US07696200B2
2-Chloro-4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid, MS (ISP): m/e=534.9, 536.9 (M−H), was prepared as described in example 1, steps 1 to 6. Step 5 was performed using 4-amino-2-chloro-benzoic acid methyl ester and yielded 2-chloro-4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo-[1,4]oxazine-6-carbonyl]-amino}-benzoic acid methyl ester, which was hydrolyzed in step 6.

reactant | 2-Chloro-4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C23H18Cl2N2O7S
reactant | 4-amino-2-chloro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
product | 2-chloro-4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo-[1,4]oxazine-6-carbonyl]-amino}-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)Cl)=O | C24H20Cl2N2O7S
